Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
dapsone
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
Bone marrow biopsy (___)
PICC placed (___)

attach
 
Pertinent Results:
INITIAL LABS
============
___ 02:30PM BLOOD WBC-9.8 RBC-3.43* Hgb-11.1* Hct-33.6* 
MCV-98 MCH-32.4* MCHC-33.0 RDW-17.4* RDWSD-62.2* Plt Ct-24*
___ 02:30PM BLOOD Neuts-6* ___ Monos-1* Eos-0* Baso-0 
Atyps-2* Blasts-65* AbsNeut-0.59* AbsLymp-2.74 AbsMono-0.10* 
AbsEos-0.00* AbsBaso-0.00*
___ 02:30PM BLOOD ___ PTT-27.7 ___
___ 05:40AM BLOOD ___ D-Dimer-<215
___ 05:40AM BLOOD Ret Aut-0.8 Abs Ret-0.02
___ 02:30PM BLOOD UreaN-14 Creat-1.0 Na-136 K-3.8 Cl-100 
HCO3-20* AnGap-16
___ 02:30PM BLOOD ALT-8 AST-17 LD(LDH)-1709* AlkPhos-93 
TotBili-0.2
___ 04:26PM BLOOD Lipase-11
___ 04:26PM BLOOD CK-MB-2 cTropnT-<0.01
___ 02:30PM BLOOD Albumin-3.6 Calcium-9.0 Mg-1.9 
UricAcd-3.6
___ 04:26PM BLOOD %HbA1c-5.6 eAG-114
___ 04:26PM BLOOD Triglyc-149 HDL-48 CHOL/HD-3.5 LDLcalc-89
___ 05:40AM BLOOD CRP-153.6*
___ 02:30PM BLOOD IgG-621* 
___ 02:30PM BLOOD CMV VL-NOT DETECT
___ 04:18PM BLOOD Lactate-1.3 K-4.2

MICROBIOLOGY
============
All blood cultures drawn during admission where negative ___, 
___
MRSA screen negative
Rapid resp viral screen and culture negative (___)
Urine culture ___ negative

IMAGING
=======
___ CT SINUS:
1. New bilateral maxillary sinus disease with hyperdense 
material suggesting fungal colonization or inspissated 
secretions.  However, there is also fat stranding in the retro 
maxillary fat pads, which raises the possibility of invasive 
fungal sinusitis in the context of immune suppression. 
2. Please see separate head CT for intracranial findings.

___ CT HEAD:
No acute intracranial abnormalities are identified or change 
seen compared with ___.

___ TTE:
The left atrium is mildly dilated. The right atrium is mildly 
enlarged. There is no evidence for an atrial septal defect by 
2D/color Doppler. The estimated right atrial pressure is ___ 
mmHg. There is mild symmetric left ventricular hypertrophy with 
a normal cavity size. There is normal regional and global left 
ventricular systolic function. Quantitative biplane left 
ventricular ejection fraction is 56 % (normal 54-73%). Left 
ventricular cardiac index is normal (>2.5 L/min/m2). There is no 
resting left ventricular outflow tract gradient. No ventricular 
septal defect is seen. Normal right ventricular cavity size with 
normal free wall motion. Tricuspid annular plane systolic 
excursion (TAPSE) is normal. The aortic sinus diameter is normal 
for gender with a mildly dilated ascending aorta. The aortic 
arch diameter is normal with a normal descending aorta diameter. 
The aortic valve leaflets (3) appear structurally normal. There 
is no aortic valve stenosis. There is no aortic regurgitation. 
The mitral valve leaflets are mildly thickened with no mitral 
valve prolapse. There is mild [1+] mitral regurgitation. The 
pulmonic valve leaflets are normal. The tricuspid valve leaflets 
appear structurally normal. There is mild [1+] tricuspid 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is a trivial pericardial effusion. IMPRESSION: 
Mild symmetric left ventricular hypertrophy with normal cavity 
size and regional/ global biventricular systolic function. Mild 
mitral regurgitation. Mildly dilated ascending aorta.

___ CT chest without contrast
No evidence of recurrent lymphoma in the chest. Stable small 
mediastinal lymph nodes. Complete resolution of the parenchymal 
opacity in the right lower lobe which most likely represented 
pneumonia.  Patchy opacity in the left lung base is new and 
could represent atelectasis. 

___ MRI skull base with and without contrast
1. Limited study as described.
2. Interval progression of opacification and enhancement within 
the left mastoid air cells and middle ear cavity concerning for 
otomastoiditis, with no definite evidence of intracranial 
extension.
3. Adjacent heterogeneity of the petrous temporal bone versus 
artifact.  If not artifactual, differential considerations 
include infectious and inflammatory etiologies.
4. Bilateral maxillary sinus disease is redemonstrated, 
aerosolized secretions are better demonstrated on the CT from ___, with no definite extension into the adjacent soft 
tissue.
5. Question mild enhancement of the left retro maxillary fat 
versus volume averaging of adjacent vessels.  Recommend 
attention on follow-up imaging.
6. Nonspecific new clivus and medial temporal bone marrow 
heterogeneity compared to ___ prior exam with question 
enhancement.  While finding may represent marrow expansion, 
infectious, inflammatory, and neoplastic etiologies are not 
excluded on the basis of this examination.  Recommend attention 
on follow-up imaging.

___ MR head with and without contrast
1. Unchanged persistent extensive fluid opacification and 
enhancement within the left middle ear cavity and mastoid air 
cells concerning for 
otomastoiditis.  No evidence of intracranial extension. 
2. Persistent heterogenous signal intensity within the adjacent 
petrous 
temporal bone.  Inflammatory, infectious or neoplastic 
etiologies are not 
excluded. 
3. Mild mucosal thickening in the frontal sinus, multiple 
ethmoid air cells and predominately in the bilateral maxillary 
sinuses, improved since the prior study.  Enhancement in the 
retromaxillary fat is difficult to evaluate due to lack of T1 
post-contrast fat saturated images. 
4. Persistent heterogenous signal intensity within the clivus, 
nonspecific. Differential considerations include marrow 
expansion, infectious, inflammatory or neoplastic etiologies. 
5. No evidence of hemorrhage, infarction, mass or other abnormal 
enhancement. 

___ bilateral lower extremity venous ultrasound
1. Nonocclusive deep vein thrombosis in the mid right femoral 
vein, new 
compared to ___. 
2. Deep vein thrombosis in the right popliteal vein.  Of note, 
the right 
popliteal vein contained a DVT on ultrasound ___, 
however the 
chronicity of the DVT seen today is uncertain. 
3. No evidence of DVT in the left lower extremity. 

___ MR head with and without contrast
1. Ongoing opacification and enhancement of the left mastoid air 
cells and 
middle ear cavity, concerning for otomastoiditis. 
2. There is no evidence of intracranial extension. 
3. No acute intracranial abnormality is identified. 
4. Persistent, unchanged heterogenous signal intensity within 
the clivus. This is nonspecific in nature. 

___ chest x-ray AP
Chronic deformity of the right rib cage.  Cardiomediastinal 
silhouette is 
within normal limits.  There are no focal consolidations, 
pleural effusion. Right basilar atelectasis.  Tortuous aorta.  
There are no pneumothoraces. 

OTHER RESULTS
=============
___ 05:40AM BLOOD G6PD-NORMAL
___ 12:00AM BLOOD  WBC-0.7*# Lymph-98* Abs ___ CD3%-88 
Abs CD3-604 CD4%-32 Abs CD4-217* CD8%-55 Abs CD8-380 
CD4/CD8-0.57*
___ 04:26PM BLOOD %HbA1c-5.6 eAG-114
___ 04:26PM BLOOD Triglyc-149 HDL-48 CHOL/HD-3.5 LDLcalc-89
___ 12:00AM BLOOD IgG-593* IgA-24* IgM-136
___ 02:30PM BLOOD CMV VL-NOT DETECT

DISCHARGE LABS
==============
___ 06:05AM BLOOD WBC-4.4 RBC-2.59* Hgb-8.1* Hct-26.1* 
MCV-101* MCH-31.3 MCHC-31.0* RDW-18.4* RDWSD-65.2* Plt ___
___ 06:05AM BLOOD Neuts-58 Bands-1 Lymphs-13* Monos-20* 
Eos-0* ___ Myelos-7* NRBC-0.5* AbsNeut-2.60 AbsLymp-0.57* 
AbsMono-0.88* AbsEos-0.00* AbsBaso-0.04
___ 06:05AM BLOOD Anisocy-1+* Poiklo-1+* Macrocy-1+* 
Microcy-1+* Polychr-1+* Ovalocy-1+* RBC Mor-SLIDE REVI
___ 06:05AM BLOOD ___ PTT-31.8 ___
___ 06:05AM BLOOD ___ 06:05AM BLOOD Glucose-83 UreaN-15 Creat-1.1 Na-143 
K-4.7 Cl-105 HCO3-23 AnGap-15
___ 06:05AM BLOOD ALT-14 AST-16 LD(LDH)-209 AlkPhos-153* 
TotBili-<0.2
___ 06:05AM BLOOD Albumin-3.4* Calcium-8.1* Phos-3.2 Mg-2.0
 
Brief Hospital Course:
TRANSITIONAL ISSUES
===================
[ ] f/u with ID regarding fungal/bacterial sinusitis and therapy 
duration
[ ] f/u with ENT regarding chronic sinusitis

SUMMARY STATMENT
================
Ms. ___ is a ___ year old woman with history of follicular 
lymphoma to DLBCL treated with multiple rounds chemotherapy 
complicated by therapy-related myelodysplasia treated with 
alloHSCT with Flu/Bu/ATG RIC (D0 ___ complicated by 
graft-versus-host disease, multiple deep vein thromboses with 
IVC filter in place, cavernous sinus aneurysm with coiling 
(___) complicated by residual cranial nerve palsy who 
presented to ___ with sinusitis and new acute myelogenous 
leukemia. Her course was notable for initiation of 
venetoclax/decitabine.

ACTIVE ISSUES
=============
# AML
# t-MDS ___ alloHSCT
t-MDS transformed to AML with up to 83% blasts (___) in elderly
host with significant co-morbidities. G6PD normal. Patient
cytogenetics show multiple complex mutations from bone marrow
biopsy. Chimerism from cytogenetics shows a greater percentage
of XX chromosomal cells versus donor XY (~88 vs ~12%). 
Decitabine/venetoclax induction (___) every four 
weeks. Doses of chemotherapy were adjusted as the patient was 
put on different antifungals. BMB ___ with reassuring 
findings, no signs of disease. Neupogen given briefly with 
appropriate marrow response. Patient kept on acyclovir and 
atovaquone for prophylaxis. Bactrim chose over atovaquone at 
discharge.

# Maxillary sinusitis
Presented with one week of progressive sinus pressure, headache,
facial warmth. CT SINUS (___) demonstrated pan-opacification of
bilateral maxillary sinuses with circumferential mucosal
thickening, with fat stranding in the retro maxillary fat pads
concerning for invasive fungal vs bacterial sinusitis yet
fiberoptic exam (___) not consistent with fungal sinusitis.
Aspergillius negative, but Beta glucan positive initially in
setting of neutropenia, Zosyn, ___, and continued sinus
symptoms. ENT saw pt multiple times and noted no c/f invasive
fungal sinusitis, MRI w&w/out contrast of sinus/skull base ___
with heterogeneity in left maxilla/middle ear c/f infectious
process and pt was placed on AmBisome (___). MRI results 
___ were reassuring, and switch to Cresemba from AmBisome was 
made. Due to likely drug rash vs viral exanthem described below, 
Zosyn was switched for meropenem ___. Reimaging of sinuses 
___,
looked stable from prior and ID recommended ongoing therapy with
Isavunconazole 372mg PO QD and Levofloxacin 750mg PO QD for
prolonged duration of ___ weeks pending reassessment in
outpatient ___ clinic.
- ABx: Cresemba ___- ) + levofloxacin ___- ) ___ meropenem
(___), Zosyn (___) AmBisome (___),
posaconazole (___), meropenem (___) + vancomycin (___)
+ levofloxacin (___) + flagyl (___) + augmentin
(-___)

# Nonocclusive right femoral vein DVT
On ___ patient complained of unilateral right lower leg
swelling, right lower extremity noninvasives showed new right
femoral vein nonocclusive clot compared to ___ bilateral lower
extremity ultrasound. Patient has an extensive history of DVTs, 
including a DVT developing while on 10mg of Xarelto. Patient was 
given platelets and started on Lovenox half dose every 12 hours 
once plts > 30. She was discharged on Xarelto 20mg daily, which 
was her home medication before admission.

# Morbilliform rash
On ___ presented with suspected drug rash with Zosyn being
likely aggravating factor. ___ spreading to arms and chest.
Without involvement of mucosa or face. Decreasing in intensity
and itching daily until ___ when patient woke up with xerotic,
blanching, non-raised rash over chest, legs, arms, and back.
Dermatology consulted and recommended steroids topically, 
suggested drug rash. Meropenem switched to levofloxacin. 
Resolution of rash within the following days. Steroid creams 
prescribed per dermatology service.

CHRONIC/RESOLVED:
=================
# Asthma
- inhalers: duonebs q6hrs PRN + albuterol q4hrs PRN

# OSA
- continue home CPAP

# Depression
- continue home venlafaxine 25

# Neuropathic pain
- continue home gabapentin 400 bid

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Albuterol Inhaler ___ PUFF IH Q4H:PRN cough, wheezing, SOB 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN 
cough/wheezing 
4. FoLIC Acid 1.6 mg PO DAILY 
5. Gabapentin 400 mg PO BID 
6. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN 
wheezing/shortness of breath 
7. Omeprazole 20 mg PO DAILY 
8. Ondansetron (ondansetron HCl) 4 mg oral Q8H:PRN nausea 
9. Restasis 0.05 % ophthalmic (eye) BID 
10. Rivaroxaban 20 mg PO DAILY 
11. Venlafaxine 25 mg PO DAILY 
12. Vitamin D ___ UNIT PO DAILY 
13. Ketoconazole Shampoo 1 Appl TP ___ TIMES PER WEEK AS NEEDED 
14. PreserVision AREDS (vitamins  A,C,E-zinc-copper) 
___ unit-mg-unit oral BID 
15. Benzonatate 100 mg PO TID:PRN Cough  
16. Ketoconazole Shampoo 1 Appl TP TWO TO THREE TIMES WEEKLY AS 
NEEDED FOR DRY SCALP 

 
Discharge Medications:
1.  Betamethasone Dipro 0.05% Cream 1 Appl TP BID  
2.  Cetirizine 20 mg PO BID 
RX *cetirizine 10 mg 2 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0 
3.  Isavuconazonium Sulfate 372 mg PO DAILY 
RX *isavuconazonium sulfate [Cresemba] 186 mg 2 capsule(s) by 
mouth once a day Disp #*60 Capsule Refills:*0 
4.  LevoFLOXacin 750 mg PO Q24H 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp 
#*42 Tablet Refills:*0 
5.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth once a day Disp #*30 Tablet Refills:*0 
6.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID  
7.  FoLIC Acid 2 mg PO DAILY 
RX *folic acid 1 mg 2 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
8.  Acyclovir 400 mg PO Q12H  
9.  Gabapentin 400 mg PO BID  
10.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN 
wheezing/shortness of breath 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 1 neb 
neb every six (6) hours Disp #*30 Ampule Refills:*0 
11.  Ketoconazole Shampoo 1 Appl TP ___ TIMES PER WEEK AS NEEDED 
 
12.  Omeprazole 20 mg PO DAILY  
13.  PreserVision AREDS (vitamins  A,C,E-zinc-copper) 
___ unit-mg-unit oral BID  
14.  Restasis 0.05 % ophthalmic (eye) BID  
15.  Rivaroxaban 20 mg PO DAILY  
16.  Venlafaxine 25 mg PO DAILY  
17.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
- Acute myelogenous leukemia

SECONDARY DIAGNOSIS
===================
- Bacterial vs Fungal sinusitis
- Right femoral vein thrombosis 
- Obstructive sleep apnea
- Asthma
- Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

WHY WERE YOU ADMITTED TO THE HOSPITAL?  
- You had a sinus infection and were found to have acute 
myelogenous leukemia

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
- You were given chemotherapy to treat your cancer
- You received antibiotics and antifungals to treat your sinus 
infection
 
WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below)  
- Follow up with your doctors as listed below  

Please see below for more information on your hospitalization. 
It was a pleasure taking part in your care here at ___. We 
wish you all the best,

- Your ___ Care Team
 
Followup Instructions:
___